US06133294
5-Chloro-2-methylthio-3-pyridinecarbonitrile
5,6-Dichloro-3-pyridinecarbonitrile (1.73 g, 0.01 mol) was dissolved with stirring in dimethyl sulphoxide (25 mL) and sodium methanethiolate (0.77 g, 0.011 mol) added. The reaction mixture was stirred at room temperature for two hours and poured onto ice (100 g). The mixture was extracted with dichloromethane (50 mL), and the organic extract washed with water (100 mL), and brine, and dried over anhydrous sodium sulphate. Evaporation of the solvent under reduced pressure and recrystallisation of the residue from ethyl acetate:hexane gave the desired product (1.3 g, 71%) as a cream solid, MP 147-9° C.

reactant | 5,6-Dichloro-3-pyridinecarbonitrile | 0.01 mol, 1.73 g | ClC=1C=C(C=NC1Cl)C#N | C6H2Cl2N2
reactant | sodium methanethiolate | 0.011 mol, 0.77 g | C[S-].[Na+]
solvent | dimethyl sulphoxide | 25 mL | CS(=O)C | C2H6OS
product | 5-Chloro-2-methylthio-3-pyridinecarbonitrile | 1.3 g, 71% | ClC=1C=C(C(=NC1)SC)C#N | C7H5ClN2S
